US07208493B2
3-(4-Hydroxy-phenyl)-N-[2-(1H-indol-2-yl)-phenyl]-propionamide
Prepared from 2-(2-aminophenyl) indole and 3-(4-hydroxyphenyl) propionic acid in 55% yield following procedure 1. The product was chromatographed on silica and crystallized from acetonitrile. 100% Purity by LC/MS (230 DAD), Mass-spec [M+H+]=357, 1H NMR (MeOH-d4): 2.61 t, 7.4 Hz (1H), 2.89 t, 7.4 Hz (1H), 6.37 s (1H), 6.72 d, 8 Hz (2H), 7.00–7.06 m (3H), 7.11 t, 7 Hz (1H), 7.27–7.35 m (2H), 7.38 d, 8 Hz (1H), 7.54 d, 7 Hz (1H), 7.58 dd, 7.1 Hz (1H), 7.67 d, 8 Hz (1H).

reactant | 2-(2-aminophenyl) indole | NC1=C(C=CC=C1)C=1NC2=CC=CC=C2C1 | C14H12N2
reactant | 3-(4-hydroxyphenyl) propionic acid | OC1=CC=C(C=C1)CCC(=O)O | C9H10O3
product | 3-(4-Hydroxy-phenyl)-N-[2-(1H-indol-2-yl)-phenyl]-propionamide | 55% yield | OC1=CC=C(C=C1)CCC(=O)NC1=C(C=CC=C1)C=1NC2=CC=CC=C2C1 | C23H20N2O2
